US05559113
4-[2-(1-Naphthyloxy)ethyl]-1H-imidazole
240 mg (60% in oil, 6 mmol) of sodium hydride are added to a solution of 1.73 g (12 mmol) of 1-naphthol in 10 ml of dimethylformamide. The mixture is stirred at room temperature for 1 hour under nitrogen. 200 mg (1.2 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride and tetrabutylammonium iodide (catalytic amount) are added. The mixture is heated at 100° C. for 3 days and the solvent is then evaporated under reduced pressure. The remaining oily residue is taken up in dichloromethane and an aqueous sodium carbonate solution and treated with active charcoal. The dichloromethane solution is separated and evaporated and the remaining residue is chromatographed on a column of silica gel (10/1 dichloromethane/methanol) to give the title compound in the base form. The oxalate is prepared from isopropanol and is crystallized from ethanol, M.p.: 187°-189° C.

reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 1-naphthol | 12 mmol, 1.73 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.2 mmol, 200 mg | Cl.ClCCC=1N=CNC1
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[2-(1-Naphthyloxy)ethyl]-1H-imidazole | C1(=CC=CC2=CC=CC=C12)OCCC=1N=CNC1 | C15H14N2O
